US06180622B2
c) (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid (stereoisomer B)
Tetrakis(triphenylphosphine)palladium(0) (12.7 mg) is added to a solution of 64.8 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer B) and 0.072 ml of N-methylaniline in a mixture of 0.9 ml of dry dichloromethane with 0.9 ml of monochlorobenzene, and the mixture is stirred in an argon atmosphere at room temperature for 70 min. Distilled water (3 ml) is added thereto, the mixture is washed three times with 3 ml of ethyl acetate, and the aqueous layer is filtered, followed by concentration under reduced pressure and freeze drying to give 23 mg of a colorless flocculent material. The colorless flocculent material is successively purified by column chromatography on Diaion CHP-20P (4% aqueous THF solution) and on Cosmosil 5C18-MS (water:methanol=2:1) to give 5.8 mg of the title compound as a colorless flocculent material.

reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 64.8 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C=1N2C(SC1)=CN=C2)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
reactant | N-methylaniline | 0.072 ml | CNC1=CC=CC=C1 | C7H9N
reactant | monochlorobenzene | 0.9 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | water | 3 ml | O | H2O
solvent | dichloromethane | 0.9 ml | ClCCl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 12.7 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1R,5S,6S)-6-((1R)-1-Hydroxyethyl)-2-[(3S,5S)-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-3-yl)methyl]pyrrolidin-3-yl]thio-1-methylcarbapen-2-em-3-carboxylic acid | 23 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)S[C@@H]2CN[C@@H](C2)C(C=2N3C(SC2)=CN=C3)O)C(=O)O)C1=O | C20H24N4O5S2
